US09340547B2
c) (S)-Methyl 1-(2-(benzyloxycarbonylamino)propanamido)-3-Bromo-1H-Pyrrole-2-carboxylate
The title compound was prepared from methyl 1-amino-3-bromo-1H-pyrrole-2-carboxylate (9.05 g, 25.6 mmol) and (S)-2-(benzyloxycarbonylamino)propanoic acid (5.72 g, 25.6 mmol) following the experimental procedure described in Preparation 73a. 9.73 g (84% yield) of the desired compound were obtained.

reactant | methyl 1-amino-3-bromo-1H-pyrrole-2-carboxylate | 25.6 mmol, 9.05 g | NN1C(=C(C=C1)Br)C(=O)OC | C6H7BrN2O2
reactant | (S)-2-(benzyloxycarbonylamino)propanoic acid | 25.6 mmol, 5.72 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)C | C11H13NO4
product | (S)-Methyl 1-(2-(benzyloxycarbonylamino)propanamido)-3-Bromo-1H-Pyrrole-2-carboxylate | 9.73 g, 84% yield | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)NN1C(=C(C=C1)Br)C(=O)OC)C | C17H18BrN3O5
